US07723347B2
1-Methyl-4-nitro-1H-pyrrolo[2,3-b]pyridine
170 mg (4.29 mmol) of sodium hydride are added to a solution of 500 mg (3.06 mmol) of 4-nitro-1H-pyrrolo[2,3-b]pyridine (Antonini, Ippolito; Claudi, Francesco; Cristalli, Gloria; Franchetti, Palmarisa; Grifantini, Mario; Martelli, Sante; J. Med. Chem. 1982, 25, 1258-1261.) in 10 ml of absolute DMA, and the suspension is stirred for 30 min. A solution of 230 μl (3.68 mmol) of methyl iodide in 2 ml of absolute DMA is then slowly added dropwise, and the mixture is again stirred for 60 min. After concentration under reduced pressure, the residue is purified by column chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 10:1).

reactant | sodium hydride | 4.29 mmol, 170 mg | [H-].[Na+]
reactant | 4-nitro-1H-pyrrolo[2,3-b]pyridine | 3.06 mmol, 500 mg | [N+](=O)([O-])C1=C2C(=NC=C1)NC=C2 | C7H5N3O2
reactant | methyl iodide | 3.68 mmol, 230 μl | CI | CH3I
solvent | DMA | 10 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 2 ml | CC(=O)N(C)C | C4H9NO
product | 1-Methyl-4-nitro-1H-pyrrolo[2,3-b]pyridine | CN1C=CC=2C1=NC=CC2[N+](=O)[O-] | C8H7N3O2
